US07429582B2
Preparation of 1-(2-Chloro-1-chloromethyl-ethoxy)-2-nitro-benzene
A solution of 1,3-dichloro-propan-2-ol (1.29 g, 10 mmoles) in THF, under nitrogen, was cooled to 0° C., treated dropwise with llithium diisopropylamide (LDA) (5 ml, 2M solution in hexanes, 10 mmoles), while maintaining the temperature constant at 0° C., stirred at 0° C. for 15 minutes, treated with 1-fluoro-2-nitro-benzene (1.2 g ml, 8.5 mmoles) and stirred at room temperature overnight. The reaction mixture was diluted with water and extracted with EtOAc. The extracts were combined, washed with brine, dried over Na2SO4, and concentrated under vacuum, to afford the title compound as an off-white solid (2.0 g, 8 mmoles), identified by HNMR analysis.

reactant | 1,3-dichloro-propan-2-ol | 10 mmoles, 1.29 g | ClCC(CCl)O | C3H6Cl2O
reactant | diisopropylamide | 10 mmoles, 2M, 5 ml | C(C)(C)[N-]C(C)C
reactant | 1-fluoro-2-nitro-benzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | THF | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-(2-Chloro-1-chloromethyl-ethoxy)-2-nitro-benzene | 8 mmoles, 2.0 g | ClCC(OC1=C(C=CC=C1)[N+](=O)[O-])CCl | C9H9Cl2NO3
